US04692538
2-Amino-2-trichloromethyl 1,3-Dioxa-cyclohept-5-ene
To cis-2-butene-1,4-diol (22.28 g, 252.9 mmole) there was added a catalytic amount of sodium followed by a slow addition at ~0° C. of trichloroacetonitrile (110 g, 3 equivalents). Upon completion of the trichloroacetonitrole addition, the solution was stirred at room temperature for 16 hours. The solution was acidified with 1 ml glacial acetic acid and stirred for 15 minutes. The resulting solution was distilled under reduced pressure (0.25 mm Hg) and several fractions were collected at different temperatures. The minor fraction (9.71 g) collected between 98°-110° was characterized as the cyclic title product. IR (KBr): 3430-3350, 3040, 2940-2920, 1607, 1110 and 825 cm-1. 1H NMR was consistent with the indicated structure.

reactant | cis-2-butene-1,4-diol | 252.9 mmole, 22.28 g | C(\C=C/CO)O | C4H8O2
reactant | sodium | [Na] | Na
reactant | trichloroacetonitrile | 110 g, 3 equivalents | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-2-trichloromethyl 1,3-Dioxa-cyclohept-5-ene | NC1(OCC=CCO1)C(Cl)(Cl)Cl | C6H8Cl3NO2
